** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc.sch
.subckt g1_osc en trim0 trim1 trim2 trim3 osc_clk vdd vss
*.ipin en
*.ipin trim0
*.ipin trim1
*.ipin trim2
*.ipin trim3
*.opin osc_clk
*.iopin vdd
*.iopin vss
XRA vdd va sub! rppd w=1u l=117u m=1 b=0 mm_ok=1
XRB vdd vb sub! rppd w=1u l=117u m=1 b=0 mm_ok=1
XCA trim0 trim1 trim2 trim3 va vss g1_osc_cbank
XCB trim0 trim1 trim2 trim3 vb vss g1_osc_cbank
XMRA va rsta vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
XMRB vb rstb vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
XRT1 vdd vth sub! rppd w=1u l=384.3u m=1 b=0 mm_ok=1
XRT2 vth vss sub! rppd w=1u l=384.3u m=1 b=0 mm_ok=1
XCTH vth vss cap_cmim w=26u l=26u m=1 mm_ok=1
XDANT vth vdd dpantenna l=0.78u w=0.78u
XRBIAS vdd vbn sub! rppd w=1u l=134.3u m=1 b=0 mm_ok=1
XMBD vbn vbn vss vss sg13_lv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XCMPA va vth vbn ca vdd vss g1_osc_cmp
XCMPB vb vth vbn cb vdd vss g1_osc_cmp
XEN en en_n vdd vss g1_osc_inv
XNQ ca en_n qb q vdd vss g1_osc_nor3
XNQB cb q qb vdd vss g1_osc_nor2
XRSTB qb en rstb vdd vss g1_osc_nand2
XRSTA q rsta vdd vss g1_osc_inv
XB1 q qn_b vdd vss g1_osc_inv
XB2 qn_b osc_clk vdd vss g1_osc_inv
.ends

* expanding   symbol:  g1_osc_cbank.sym # of pins=6
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_cbank.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_cbank.sch
.subckt g1_osc_cbank t0 t1 t2 t3 top vss
*.ipin t0
*.ipin t1
*.ipin t2
*.ipin t3
*.iopin top
*.iopin vss
XCF top vss cap_cmim w=31.65u l=31.65u m=1 mm_ok=1
XCT0 top b0 cap_cmim w=8.16u l=8.16u m=1 mm_ok=1
XMS0 b0 t0 vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
XCT1 top b1 cap_cmim w=11.55u l=11.55u m=1 mm_ok=1
XMS1 b1 t1 vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
XCT2 top b2 cap_cmim w=16.33u l=16.33u m=1 mm_ok=1
XMS2 b2 t2 vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
XCT3 top b3 cap_cmim w=23.09u l=23.09u m=1 mm_ok=1
XMS3 b3 t3 vss vss sg13_lv_nmos w=4u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_osc_cmp.sym # of pins=6
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_cmp.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_cmp.sch
.subckt g1_osc_cmp inp inn vbn out vdd vss
*.ipin inp
*.ipin inn
*.ipin vbn
*.opin out
*.iopin vdd
*.iopin vss
XMT tail vbn vss vss sg13_lv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XM1 d1 inp tail vss sg13_lv_nmos w=4u l=0.3u ng=1 m=1 mm_ok=1
XM2 o1 inn tail vss sg13_lv_nmos w=4u l=0.3u ng=1 m=1 mm_ok=1
XM3 d1 d1 vdd vdd sg13_lv_pmos w=2u l=0.3u ng=1 m=1 mm_ok=1
XM4 o1 d1 vdd vdd sg13_lv_pmos w=2u l=0.3u ng=1 m=1 mm_ok=1
XI1 o1 o2 vdd vss g1_osc_inv
XI2 o2 out vdd vss g1_osc_inv
.ends


* expanding   symbol:  g1_osc_inv.sym # of pins=4
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_inv.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_inv.sch
.subckt g1_osc_inv a y vdd vss
*.ipin a
*.opin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XMN y a vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_osc_nor3.sym # of pins=6
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nor3.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nor3.sch
.subckt g1_osc_nor3 a0 a1 a2 y vdd vss
*.ipin a0
*.ipin a1
*.ipin a2
*.opin y
*.iopin vdd
*.iopin vss
XMP0 p0 a0 vdd vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XMP1 p1 a1 p0 vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XMP2 y a2 p1 vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XMN0 y a0 vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XMN1 y a1 vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XMN2 y a2 vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_osc_nor2.sym # of pins=5
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nor2.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nor2.sch
.subckt g1_osc_nor2 a0 a1 y vdd vss
*.ipin a0
*.ipin a1
*.opin y
*.iopin vdd
*.iopin vss
XMP0 p0 a0 vdd vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
XMP1 y a1 p0 vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
XMN0 y a0 vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XMN1 y a1 vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_osc_nand2.sym # of pins=5
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nand2.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_nand2.sch
.subckt g1_osc_nand2 a0 a1 y vdd vss
*.ipin a0
*.ipin a1
*.opin y
*.iopin vdd
*.iopin vss
XMP0 y a0 vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XMP1 y a1 vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XMN0 y a0 n0 vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XMN1 n0 a1 vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
.ends

