** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_cmp.sch
.subckt g1_osc_cmp inp inn vbn out vdd vss
*.ipin inp
*.ipin inn
*.ipin vbn
*.opin out
*.iopin vdd
*.iopin vss
XMT tail vbn vss vss sg13_lv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XM1 d1 inp tail vss sg13_lv_nmos w=4u l=0.3u ng=1 m=1 mm_ok=1
XM2 o1 inn tail vss sg13_lv_nmos w=4u l=0.3u ng=1 m=1 mm_ok=1
XM3 d1 d1 vdd vdd sg13_lv_pmos w=2u l=0.3u ng=1 m=1 mm_ok=1
XM4 o1 d1 vdd vdd sg13_lv_pmos w=2u l=0.3u ng=1 m=1 mm_ok=1
XI1 o1 o2 vdd vss g1_osc_inv
XI2 o2 out vdd vss g1_osc_inv
.ends

* expanding   symbol:  g1_osc_inv.sym # of pins=4
** sym_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_inv.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_osc/schematic/g1_osc_inv.sch
.subckt g1_osc_inv a y vdd vss
*.ipin a
*.opin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XMN y a vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
.ends

